US07148234B2
STEP 1. 4-cyano-3,5-dimethyl-2-nitrophenyl trifluoromethanesulfonate
To a solution of 4-hydroxy-2,6-dimethyl-3-nitro-benzonitrile (v.Auwers; Saurwein; Fortsch. Ch. Phys.; 18; Heft 2, S. 23; 2.6 g, 13.4 mmol) in dichloromethane (150 ml) was added triflic anhydride (3.4 ml, 20 mmol) and pyridine (1.5 ml, 20 mmol) at 0° C. The mixture was stirred at room temperature for 1.5 h. The reaction mixture was poured into water, and extracted with ethyl acetate (100 ml). The organic layer was washed with brine (50 ml), then dried (Na2SO4). After removal of solvent, the crude product was purified by flash column chromatography eluting with hexane/ethyl acetate (2:1) to afford 3 g (69%) of the title compound as pale yellow solids.

reactant | 4-hydroxy-2,6-dimethyl-3-nitro-benzonitrile | 13.4 mmol, 2.6 g | OC1=C(C(=C(C#N)C(=C1)C)C)[N+](=O)[O-] | C9H8N2O3
reactant | triflic anhydride | 20 mmol, 3.4 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | pyridine | 20 mmol, 1.5 ml | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 4-cyano-3,5-dimethyl-2-nitrophenyl trifluoromethanesulfonate | 3 g, 69% | FC(S(=O)(=O)OC1=C(C(=C(C(=C1)C)C#N)C)[N+](=O)[O-])(F)F | C10H7F3N2O5S
